US04452738
50 ml of a solution of 15% by weight of BF3 in acetic acid (=0.11 mole) are added to a suspension of 26.3 g (0.1 mole) of 5-cyano-10-nitro-5H-dibenz[b,f]azepine in 100 ml of acetic acid at room temperature. In the course of this the temperature rises slowly to 34° with complete dissolution of the starting material. 30 ml of water are added at 30° in the course of 5 minutes, resulting in a further increase in temperature to 37°. At this temperature 40 g of iron powder are added in portions over a period of 20 minutes, the temperature being maintained at 65°-70° by occasional cooling. After the exothermic reaction has subsided, stirring is continued for a further 15 minutes and then inorganic material is filtered off and washed three times with a little acetic acid. The total filtrate is added dropwise, while stirring well, to 11/2 l of water and, after stirring for 2 hours, the resulting precipitate is filtered off and washed neutral with water. After drying in vacuo at 60°, 5-carbamoyl-10-oxo-10,11-dihydro-5H-dibenz[b,f]azepine is obtained, which according to the IR spectrum is identical to authentic material.

reactant | BF3 | B(F)(F)F | BF3
reactant | 5-cyano-10-nitro-5H-dibenz[b,f]azepine | 0.1 mole, 26.3 g | C(#N)N1C2=C(C=C(C3=C1C=CC=C3)[N+](=O)[O-])C=CC=C2 | C15H9N3O2
reactant | water | 30 ml | O | H2O
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.11 mole | C(C)(=O)O | C2H4O2
catalyst | iron | 40 g | [Fe] | Fe
product | 5-carbamoyl-10-oxo-10,11-dihydro-5H-dibenz[b,f]azepine | C(N)(=O)N1C2=C(CC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H12N2O2
